US05440044
(5RS)-5-Hydroxy-5-{6-[(1E, 3E)-(5RS)-5-hydroxy-1,3-tridecadienyl]-2-pyridyl}-pentanoic acid methyl ester
Under the conditions of example 1B, 470 mg of 2-bromo-6-[(1E, 3E)-(5RS)-5-hydroxy-1,3-tridecadienyl]-pyridine in 7 ml of tetrahydrofuran is mixed with 1.84 ml of n-butyllithium (1.6 molar in hexane) and 200 mg of 5-oxo-pentanoic acid methyl ester in 1.5 ml of tetrahydrofuran, worked up and chromatographed on silica gel with hexane/ethyl acetate=95/5. 29 mg of the title compound is obtained as colorless oil.

reactant | 2-bromo-6-[(1E, 3E)-(5RS)-5-hydroxy-1,3-tridecadienyl]-pyridine | 470 mg | BrC1=NC(=CC=C1)\C=C\C=C\C(CCCCCCCC)O | C18H26BrNO
reactant | n-butyllithium | 1.6 molar, 1.84 ml | C(CCC)[Li]
reactant | 5-oxo-pentanoic acid methyl ester | 200 mg | COC(CCCC=O)=O | C6H10O3
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.5 ml | O1CCCC1 | C4H8O
product | (5RS)-5-Hydroxy-5-{6-[(1E, 3E)-(5RS)-5-hydroxy-1,3-tridecadienyl]-2-pyridyl}-pentanoic acid methyl ester | 29 mg | COC(CCCC(C1=NC(=CC=C1)\C=C\C=C\C(CCCCCCCC)O)O)=O | C24H37NO4
